US05723473
Methyl magnesium chloride (2.6 ml of a 3.0M solution in THF) was added dropwise to a solution of isoquinoline-3-carbonitrile at 0°-5° C. After the addition the reaction mixture was stirred at room temperature for 1 hour, then quenched with water. Hydrochloric acid (2M aqueous solution) was added to the reaction mixture until the aqueous phase was pH2. After stirring for 30 minutes the aqueous was neutralised with sodium bicarbonate (solid) and extracted with ether (×2). The combined extracts were washed with water, dried and concentrated to give a crystalline solid. Recrystalisation from hexane gave 3-acetyl-isoquinoline (0.55 g, 14% yield) as a pale yellow solid m.p. 84.4°-86.8° C. 1H NMR: 2.83(3H,s); 7.69-7.81(2H,m); 7.99(1H,m); 8.04(1H,m); 8.49(1H,m); 9.29(1H,s) ppm.

reactant | Methyl magnesium chloride | C[Mg]Cl
reactant | isoquinoline-3-carbonitrile | C1=NC(=CC2=CC=CC=C12)C#N | C10H6N2
reactant | THF | C1CCOC1 | C4H8O
product | 3-acetyl-isoquinoline | 0.55 g, 14% yield | C(C)(=O)C=1N=CC2=CC=CC=C2C1 | C11H9NO
